US08557830B2
5-(3-(7H-Pyrrolo[2,3-d]pyrimidin-4-yl)pyridin-2-ylamino)-6-methylisoquinolin-1(2H)-one (750 mg, 2036 μmol) was suspended in phosphorous oxychloride (9.5 mL, 10.2 mmol). The reaction vessel was flushed with N2 and sealed. The reaction was heated in an oil bath for 5 h. The excess reagent was removed in vacuo. The residue was azeotroped with toluene times and then put under high vacuum overnight. The residue was suspended with 50 g of ice. The suspension was neutralized with NaHCO3 (aq., sat.). The resulting mixture was extracted with DCM. The DCM solution was concentrated in vacuo and the residue was purified via flash column on silica (Hexane:EtOAc gradient of 50-10%) to give N-(3-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)pyridin-2-yl)-1-chloro-6-methylisoquinolin-5-amine as a yellow solid (530 mg, 67% yield). MS (ESI, pos. ion) m/z: 387 [M+H]+

reactant | 5-(3-(7H-Pyrrolo[2,3-d]pyrimidin-4-yl)pyridin-2-ylamino)-6-methylisoquinolin-1(2H)-one | 2036 μmol, 750 mg | N1=CN=C(C2=C1NC=C2)C=2C(=NC=CC2)NC2=C1C=CNC(C1=CC=C2C)=O | C21H16N6O
reactant | phosphorous oxychloride | 10.2 mmol, 9.5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | N-(3-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)pyridin-2-yl)-1-chloro-6-methylisoquinolin-5-amine | 530 mg, 67% yield | N1=CN=C(C2=C1NC=C2)C=2C(=NC=CC2)NC=2C=1C=CN=C(C1C=CC2C)Cl | C21H15ClN6
